US07414050B2
b) 4-(4-Nitro-phenyl)-dihydro-pyran-2,6-dione
A flask was charged with 20.0 g (79.0 mmol) of 3-(4-nitro-phenyl)-pentanedioic acid (as prepared in the previous step) and 22.4 mL (237 mmol) of acetic anhydride. The mixture was heated to 80° C. for 1 h, cooled to RT, and treated slowly with ether until the product began to precipitate. After allowing the solid to fully precipitate, the solid was filtered, washed with ether, and air-dried to afford 13.0 g (70%) of the title compound as an off-white solid: 1H-NMR (CDCl3; 400 MHz): δ 8.28 (d, 2H, J=8.8 Hz), 7.41 (d, 2H, J=8.8 Hz), 3.64-3.53 (m, 1H), 3.22-3.13 (m, 2H), 2.96-2.85 (m, 2H).

reactant | 3-(4-nitro-phenyl)-pentanedioic acid | 79.0 mmol, 20.0 g | [N+](=O)([O-])C1=CC=C(C=C1)C(CC(=O)O)CC(=O)O | C11H11NO6
reactant | acetic anhydride | 237 mmol, 22.4 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | ether | CCOCC | C4H10O
product | 4-(4-Nitro-phenyl)-dihydro-pyran-2,6-dione | 13.0 g, 70% | [N+](=O)([O-])C1=CC=C(C=C1)C1CC(OC(C1)=O)=O | C11H9NO5
